US09193692B2
B. Ethyl 2-(3,5-dibromopyrazin-2-ylamino)acetate
A 2000 mL 3-necked round bottomed flask was charged with 2-amino-3,5-dibromopyrazine (172 g, 680 mmol) in dimethylformamide (860 mL) and cooled to 0-5° C. Cesium carbonate (288 g, 884 mmol) was added in one portion followed by the portion-wise addition of ethyl chloroacetate (87 mL, 816 mmol). The solution was allowed to warm to 20-25° C. then heated to 55° C. (exotherm observed, max temperature observed 76° C.). Once the internal reaction temperature subsided to 65° C. the reaction was heated at 65° C. for ˜4 h. The reaction was cooled to 20-25° C. and filtered through filter paper to remove inorganic salts and the solid was washed with dimethylformamide (3 vol). The filtrate was added dropwise to 16 vol of ice-water (8 vol ice/8 vol water) and the slurry was allowed to agitate for 12-24 h. The resulting brown solid was isolated following filtration and washed with water (10 vol) and air-dried. Crude product was dissolved in methyl t-butyl ether (3.46 L, 15 vol). Charcoal (C-906 from Ecosorb, 20 wt %, 46.1 g) was added and the mixture was heated at reflux for 1 h. After cooling to rt, the charcoal was removed over a Celite bed and the filtrate was concentrated to dryness. The crude was dissolved in ethyl acetate (576 mL, 2.5 vol) and concentrated to a thick slurry. A solution of 2% ethyl acetate in heptane (1.15 L, 5 vol) was added and the mixture was stirred at rt for 30-60 min. The product was collected by filtration, washed with heptane (2-3 vol) and dried under high vacuum at 35-40° C. for 16 h to afford the desired compound as an off-white solid (109 g, 47% yield). A second crop was isolated from the mother liquor as follows: the filtrate was concentrated to give a crude oil. Ethyl acetate (1 vol.) was added. The resulting solution was seeded with previously isolated product and cooled at 0-5° C. for 1 h. The resulting solid was collected by filtration and washed with cold ethyl acetate:heptane (1:1 mixture, <1 vol). The solid was dried as described previously and combined with the first crop to provide the title compound (132 g, 57% total yield). MS (ESI) m/z 337.8 [M−1]+, 339.8 [M+1]+, 341.8 [M+3]+.

reactant | 2-amino-3,5-dibromopyrazine | 680 mmol, 172 g | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | Cesium carbonate | 884 mmol, 288 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl chloroacetate | 816 mmol, 87 mL | ClCC(=O)OCC | C4H7ClO2
solvent | dimethylformamide | 860 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-(3,5-dibromopyrazin-2-ylamino)acetate | 109 g, 47% yield | BrC=1C(=NC=C(N1)Br)NCC(=O)OCC | C8H9Br2N3O2
